US05217845
2. 2,7-Bis(α-hydroxybenzyl)-9-phenylacridine (compound 2)
1 pbw of 2,7-dibenzoyl-9-phenylacridine is suspended in 4 pbw of ethanol and reduced by adding 0.1 pbw of sodium boranate in portions at 20°-50° C. After 24 hours, the reaction product is precipitated with water, purified and dried (m.p. above 280° C.).

reactant | 2,7-dibenzoyl-9-phenylacridine | C(C1=CC=CC=C1)(=O)C1=CC2=C(C3=CC(=CC=C3N=C2C=C1)C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C33H21NO2
reactant | sodium boranate | B(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2,7-Bis(α-hydroxybenzyl)-9-phenylacridine | OC(C1=CC=CC=C1)C1=CC2=C(C3=CC(=CC=C3N=C2C=C1)C(C1=CC=CC=C1)O)C1=CC=CC=C1 | C33H25NO2
